US09023851B2
5-(8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino)-1,3-dihydro-indol-2-one
To a solution of 5-isothiocyanato-1,3-dihydro-indol-2-one (2.3 g, 12.09 mmol) in dry dichloromethane (200 ml), 1,2-diamino-pyrazinium mesitylenate (5.21 g, 15.12 mmol), diisopropylethylamine (7.81 g, 60.45 mmol) and EDCl (4.63 g, 24.18 mmol) are added and stirred for 6 hours. The reaction mixture is concentrated and the residue is taken in water (100 ml), triturated and filtered, the crude solid is purified by silica column using (60-120) mesh to get the titled product as yellow solid (2.0 g, 55%); TLC: chloroform/methanol (9.5/0.5) Rf-0.3; HPLC purity (method A): 97%, Rt (min): 2.40; LCMS: mass found (M+, 301.0), Rt (min): 2.36;

reactant | 5-isothiocyanato-1,3-dihydro-indol-2-one | 12.09 mmol, 2.3 g | N(=C=S)C=1C=C2CC(NC2=CC1)=O | C9H6N2OS
reactant | 1,2-diamino-pyrazinium mesitylenate | 15.12 mmol, 5.21 g | C1(=CC(=CC(=C1)C)C)C(=O)[O-].N[N+]1=C(C=NC=C1)N
reactant | diisopropylethylamine | 60.45 mmol, 7.81 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCl | 24.18 mmol, 4.63 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 5-(8-Chloro-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino)-1,3-dihydro-indol-2-one | 2.0 g, 55% | ClC=1C=2N(C=CN1)N=C(N2)NC=2C=C1CC(NC1=CC2)=O | C13H9ClN6O
